US07098212B2
5-Chloro-2-hydroxy-benzenesulfonamide
To a suspension of 5-chloro-2-methoxy-benzenesulfonamide (0.52 g, 2.33 mmol) in dichloromethane (25 mL) at −78° C. was added boron tribromide (1M solution in dichloromethane, 3.5 mL, 3.5 mmol). The reaction was stirred at −78° C. for 30 minutes and then warmed to ambient temperature and stirred overnight. The reaction was quenched with water (0.30 mL) and the precipitate formed was removed by filtration. The filtrate was concentrated in vacuo and the crude product was purified by chromatography on silica gel to give the title compound (0.32 g).

reactant | 5-chloro-2-methoxy-benzenesulfonamide | 2.33 mmol, 0.52 g | ClC=1C=CC(=C(C1)S(=O)(=O)N)OC | C7H8ClNO3S
reactant | boron tribromide | 3.5 mmol, 1M, 3.5 mL | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 5-Chloro-2-hydroxy-benzenesulfonamide | 0.32 g | ClC=1C=CC(=C(C1)S(=O)(=O)N)O | C6H6ClNO3S
